US05686458
Preparation 1-13: 1,4-Dimethyl-1,2,3,4-Tetrahydroisoquinoline
In accordance with the same procedures as in Preparation 1-1, except that 14.5 ml of β-methylphenethyl-amine(0.1M) and 7.8 ml of acetyl chloride(0.11M) were used as starting materials, 6.6 g of the title compound was prepared.

reactant | β-methylphenethyl-amine | 0.1M, 14.5 ml | CC(CN)C1=CC=CC=C1 | C9H13N
reactant | acetyl chloride | 0.11M, 7.8 ml | C(C)(=O)Cl | C2H3ClO
product | 1,4-Dimethyl-1,2,3,4-Tetrahydroisoquinoline | 6.6 g | CC1NCC(C2=CC=CC=C12)C | C11H15N
